US06187905B1
A solution of 0.5 g of tert-butyl 3(S)-[N-benzyl-N-(α(S)-methylbenzyl)amino]-2(S)-hydroxyheptanoate in acetic acid containing 0.2 g of palladium-on-charcoal was hydrogenolyzed overnight at 0.5 MPa. The catalyst was removed by filtration and the acetic acid was evaporated. The crude product was dissolved in dichloromethane and washed with saturated sodium bicarbonate solution. The aqueous phase was extracted with dichloromethane and the combined organic layers were washed with saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated to give 0.26 g of tert-butyl 3(S)-amino-2(S)-hydroxyheptanoate, MS: m/e 218.3 [M+H]+.

reactant | tert-butyl 3(S)-[N-benzyl-N-(α(S)-methylbenzyl)amino]-2(S)-hydroxyheptanoate | 0.5 g | C(C1=CC=CC=C1)N([C@H](C1=CC=CC=C1)C)[C@H]([C@@H](C(=O)OC(C)(C)C)O)CCCC | C26H37NO3
solvent | acetic acid | 0.2 g | C(C)(=O)O | C2H4O2
catalyst | palladium-on-charcoal | [Pd] | Pd
product | tert-butyl 3(S)-amino-2(S)-hydroxyheptanoate | 0.26 g | N[C@H]([C@@H](C(=O)OC(C)(C)C)O)CCCC | C11H23NO3
